### PR TITLE
[Merged by Bors] - feat(Probability): existence of independent random variables with a given sequence of distributions

### PR DESCRIPTION
**Pull request by DavidLedvinka**
In some sense none of these are necessary, especially `exists_hasLaw`, because one could just use the identity or the projections of the product explicitly, but I think using these lemmas when one wants to introduce random variables in probabilistic proofs will be much more natural. 

Also added needed `fun_prop` tags to `aemeasurable_id` lemmas which randomly generalized `charFun_map_smul` to 
not need `SecondCountableTopology` (detected by the linter).

### CODE REVIEW

File: Mathlib/Probability/HasLaw.lean [hunk 1]
```diff
@@ -130,4 +134,32 @@ lemma HasPDF.hasLaw [h : HasPDF X P μ] : HasLaw X (μ.withDensity (pdf X P μ))
...
+
+lemma exists_hasLaw {𝓧 : Type u} {m𝓧 : MeasurableSpace 𝓧} (μ : Measure 𝓧) :
+    ∃ Ω : Type u, ∃ _ : MeasurableSpace Ω, ∃ P : Measure Ω, ∃ X : Ω → 𝓧, HasLaw X μ P :=
+  ⟨𝓧, m𝓧, μ, id, .id⟩
+
+lemma exists_hasLaw_indepFun {ι : Type v} (𝓧 : ι → Type u)
+    {m𝓧 : ∀ i, MeasurableSpace (𝓧 i)} (μ : (i : ι) → Measure (𝓧 i))
+    [hμ : ∀ i, IsProbabilityMeasure (μ i)] :
+    ∃ Ω : Type (max u v), ∃ _ : MeasurableSpace Ω, ∃ P : Measure Ω, ∃ X : (i : ι) → Ω → (𝓧 i),
+      (∀ i, HasLaw (X i) (μ i) P) ∧ (iIndepFun X P) := by
```
Comment (sgouezel) [inline Mathlib/Probability/HasLaw.lean]: Could you also register there that `P` is a probability measure?

File: Mathlib/Probability/HasLaw.lean [hunk 2]
```diff
@@ -4,6 +4,7 @@ Released under Apache 2.0 license as described in the file LICENSE.
 Authors: EtienneMarion
 -/
 import Mathlib.Probability.Density
+import Mathlib.Probability.Independence.InfinitePi
```
Comment (sgouezel) [inline Mathlib/Probability/HasLaw.lean]: This brings a big import in a pretty basic file. I'd prefer if you created a new file instead.

**Comment by DavidLedvinka** [comment]
I have made a separate file directly under `Probability` but perhaps I should make a `HasLaw` folder with the old file being `HasLaw.Basic` and this one being `HasLaw.Existence` or something?

**Comment by DavidLedvinka** [comment]
-awaiting-author

File: Mathlib/Probability/HasLawExists.lean [hunk 3]
```diff
@@ -0,0 +1,45 @@
...
+
+lemma _root_.Measure.exists_hasLaw {𝓧 : Type u} {m𝓧 : MeasurableSpace 𝓧} (μ : Measure 𝓧) :
+    ∃ Ω : Type u, ∃ _ : MeasurableSpace Ω, ∃ P : Measure Ω, ∃ X : Ω → 𝓧, HasLaw X μ P :=
+  ⟨𝓧, m𝓧, μ, id, .id⟩
+
+lemma exists_hasLaw_indepFun {ι : Type v} (𝓧 : ι → Type u)
+    {m𝓧 : ∀ i, MeasurableSpace (𝓧 i)} (μ : (i : ι) → Measure (𝓧 i))
+    [hμ : ∀ i, IsProbabilityMeasure (μ i)] :
+    ∃ Ω : Type (max u v), ∃ _ : MeasurableSpace Ω, ∃ P : Measure Ω, ∃ X : (i : ι) → Ω → (𝓧 i),
+      (∀ i, HasLaw (X i) (μ i) P) ∧ (iIndepFun X P) ∧ (IsProbabilityMeasure P):= by
```
Comment (sgouezel) [inline Mathlib/Probability/HasLawExists.lean]:
```suggestion
      (∀ i, HasLaw (X i) (μ i) P) ∧ iIndepFun X P ∧ IsProbabilityMeasure P := by
```
Only use parentheses when they are necessary and clarify things. Here, it looks more readable to me without them.

File: Mathlib/Probability/HasLawExists.lean [hunk 4]
```diff
@@ -0,0 +1,45 @@
...
+  use Π i, (𝓧 i), .pi, infinitePi μ, fun i ↦ Function.eval i
+  refine ⟨fun i ↦ MeasurePreserving.hasLaw (measurePreserving_eval_infinitePi _ _), ?_, ?_⟩
```
Comment (sgouezel) [inline Mathlib/Probability/HasLawExists.lean]: Could you move the `infer_instance` to the last slot of the `refine`, to avoid bulleting the rest of the proof?

File: Mathlib/Probability/HasLawExists.lean [hunk 5]
```diff
@@ -0,0 +1,45 @@
...
+  · rw [iIndepFun_iff_map_fun_eq_infinitePi_map (by fun_prop), map_id']
+    congr
+    funext i
+    exact ((measurePreserving_eval_infinitePi μ i).map_eq).symm
+  infer_instance
+
+lemma exists_iid (ι : Type v) {𝓧 : Type u} {m𝓧 : MeasurableSpace 𝓧}
+    (μ : Measure 𝓧) [IsProbabilityMeasure μ] :
+    ∃ Ω : Type (max u v), ∃ _ : MeasurableSpace Ω, ∃ P : Measure Ω, ∃ X : ι → Ω → 𝓧,
+      (∀ i, HasLaw (X i) μ P) ∧ (iIndepFun X P) ∧ (IsProbabilityMeasure P) :=
```
Comment (sgouezel) [inline Mathlib/Probability/HasLawExists.lean]: ditto

**Comment by sgouezel** [comment]
I think I'm happy with the name you've picked for the file. If in the future it appears that we have many `HasLaw` files, we can reconsider then.

**Comment by DavidLedvinka** [comment]
-awaiting-author

File: Mathlib/Probability/HasLawExists.lean [hunk 6]
```diff
@@ -0,0 +1,45 @@
...
+universe u v
+
+lemma _root_.Measure.exists_hasLaw {𝓧 : Type u} {m𝓧 : MeasurableSpace 𝓧} (μ : Measure 𝓧) :
+    ∃ Ω : Type u, ∃ _ : MeasurableSpace Ω, ∃ P : Measure Ω, ∃ X : Ω → 𝓧, HasLaw X μ P :=
+  ⟨𝓧, m𝓧, μ, id, .id⟩
+
+lemma exists_hasLaw_indepFun {ι : Type v} (𝓧 : ι → Type u)
+    {m𝓧 : ∀ i, MeasurableSpace (𝓧 i)} (μ : (i : ι) → Measure (𝓧 i))
+    [hμ : ∀ i, IsProbabilityMeasure (μ i)] :
+    ∃ Ω : Type (max u v), ∃ _ : MeasurableSpace Ω, ∃ P : Measure Ω, ∃ X : (i : ι) → Ω → (𝓧 i),
```
Comment (sgouezel) [inline Mathlib/Probability/HasLawExists.lean:30]: Could you also register in this theorem and the other ones that the `X` you construct is measurable? This is often handy in applications.

**Comment by sgouezel** [comment]
bors r+
Thanks!
